US05763463
Preparation of 3-chloro-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetic acid
9.3 g (50 mmol) of 3-chloro-4-hydroxylphenylacetic acid was dissolved in 100 ml of N,N-dimethylformamide, and 15.2 g (110 mmol) of potassium carbonate was added thereto. The mixture was stirred at 100° C. for one hour. Then, 10.9 g (60 mmol) of 2-chloro-5-trifluoromethylpyridine was added thereto, and the mixture was stirred for 8 hours at 120° C. After cooling, the reaction solution was poured into water and washed twice with ethyl acetate. The obtained aqueous layer was adjusted to pH 4 with citric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The obtained residue was recrystallized from ethanol to obtain 8.3 g of the desired product as a white powder (melting point: 138° to 139° C.).

reactant | 3-chloro-4-hydroxylphenylacetic acid | 50 mmol, 9.3 g | ClC=1C=C(C=CC1O)CC(=O)O | C8H7ClO3
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-trifluoromethylpyridine | 60 mmol, 10.9 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetic acid | 8.3 g | ClC=1C=C(C=CC1OC1=NC=C(C=C1)C(F)(F)F)CC(=O)O | C14H9ClF3NO3
